US06265426B1
4-[5-(3-Dimethylaminomethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-phenol hydrochloride salt 1:1 (mixture of tautomers)
A solution of {3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-dimethylamine hydrochloride (1:1) (100 mg, 0.29 mmol) in CH2Cl2 (5 ml) at −78° C. was treated with boron tribromide (1M CH2Cl2 1.5 ml, 1.5 mmol, 5.2 eq.). Over 16 hrs. the temperature was raised gradually to r.t. After addition of methanol (1 ml) and saturated Na2CO3 (10 ml) the pH was adjusted to 9 with 2N HCl. After extraction with CH2Cl2, then EtOAc, the combined extracts were dried with Na2SO4 and the solvent evaporated. The residue was dissolved in EtOH, 1.45M HCl/EtOH added (0.17 ml, 1.1 eq.) and stirred for 30 min. then evaporated to dryness and the product obtained was dried under high vacuum at 20° C., affording the title compound (70 mg, 73% yield) as a light yellow solid. MS: m/e=295.3 (M+H+).

reactant | {3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-dimethylamine hydrochloride | 0.29 mmol, 100 mg | Cl.COC1=CC=C(C=C1)C1=NC(=NN1)C=1C=C(CN(C)C)C=CC1
reactant | boron tribromide | 1.5 mmol, 1M, 1.5 ml, 5.2 eq. | B(Br)(Br)Br | BBr3
reactant | Na2CO3 | 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
product | 4-[5-(3-Dimethylaminomethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-phenol hydrochloride salt | 70 mg, 73% yield | Cl.CN(C)CC=1C=C(C=CC1)C=1N=C(NN1)C1=CC=C(C=C1)O | InChI=1S/C17H18N4O.ClH/c1-21(2)11-12-4-3-5-14(10-12)17-18-16(19-20-17)13-6-8-15(22)9-7-13;/h3-10,22H,11H2,1-2H3,(H,18,19,20);1H
